US08217184B2
(S)-2-phenyloxirane
Colorless oily substance, 69% yield, >99% ee (CHIRALCEL OD-H, hexane/iPrOH 99.9:0.1); [α]D23 +26.1° (c=0.48, CHCl3); 1H NMR (CDCl3): δ7.39-7.26 (m, 5H), 3.88-3.85 (dd, J=2.6, 4.0 Hz, 1H), 3.17-3.13 (dd, J=4.0, 5.6 Hz, 1H), 2.82-2.79 ppm (dd, J=2.6, 5.6 Hz, 1H).

reactant | hexane iPrOH | CCCCCC.CC(C)O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (S)-2-phenyloxirane | 69% yield | C1(=CC=CC=C1)[C@@H]1OC1 | C8H8O
